US09427475B2
Step A: (S)-benzyl 2-{[(benzyloxy)carbonyl]amino}-5-[(2-{[α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-α-D-mannopyranosyl]oxy}ethyl)amino]-5-oxopentanoate
To a solution of 2-aminoethyl α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-α-D-mannopyranoside (2.6 g, 4.75 mmol), and (S)-5-(benzyloxy)-4-{[(benzyloxy)carbonyl]amino}-5-oxopentanoic acid (2.0 g, 5.39 mmol) in DMF (36 mL) at 0° C. was added DMAP (580 mg, 4.75 mmol) and EDC (3.64 g, 19.00 mmol). The reaction mixture was allowed to gradually warm up to rt. After stirring for 16 hr, the reaction mixture was concentrated and the residue was purified by flash chromatography on C18 reverse phase silica gel (275 g), eluting with 10-55% AcCN in H2O to give the title compound. UPLC Method B: calculated for C40H56N2O21 900.34, observed m/e: 901.26 [M+1]; Rt=2.46 min.

reactant | 2-aminoethyl α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-α-D-mannopyranoside | 4.75 mmol, 2.6 g | [C@H]1([C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O[C@@H]1[C@@H]([C@@H](OCCN)O[C@@H]([C@H]1O)CO[C@@H]1[C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O | C20H37NO16
reactant | (S)-5-(benzyloxy)-4-{[(benzyloxy)carbonyl]amino}-5-oxopentanoic acid | 5.39 mmol, 2.0 g | C(C1=CC=CC=C1)OC([C@H](CCC(=O)O)NC(=O)OCC1=CC=CC=C1)=O | C20H21NO6
reactant | EDC | 19.00 mmol, 3.64 g
solvent | DMF | 36 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 4.75 mmol, 580 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (S)-benzyl 2-{[(benzyloxy)carbonyl]amino}-5-[(2-{[α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-α-D-mannopyranosyl]oxy}ethyl)amino]-5-oxopentanoate | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OCC1=CC=CC=C1)CCC(=O)NCCO[C@@H]1[C@@H](O)[C@@H](O[C@@H]2[C@@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO)[C@H](O)[C@H](O1)CO[C@@H]1[C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C40H56N2O21
